US07576108B2
b: (E)4-(2-Cyclohexyl-1-hydroxymethyl-vinyl)-N-methyl-benzenesulfonamide
Heat a suspension of 4-bromo-N-methyl-benzenesulfonamide (0.51 g, 2.0 mmol), (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (0.81 g, 3.06 mmol), caesiumfluoride (0.93 g, 6.12 mmol) and tetrakis(triphenylphosphino)palladium(0) (230 mg, 0.2 mmol) in 12 mL THF to 60° C. for 4 h. Remove the solvent under vacuum and add ethyl acetate, wash the organic layer with water followed by saturated sodium chloride solution. Filter through a hydrophobic filter paper and remove the solvent under vacuum. Further purify the resulting residue by column chromatography, eluting with a gradient from 100:0 to 35:65 hexanes:ethyl acetate to afford the title compound (0.51 g) as a gray solid. MS (m/e): 310 (M+H).

reactant | 4-bromo-N-methyl-benzenesulfonamide | 2.0 mmol, 0.51 g | BrC1=CC=C(C=C1)S(=O)(=O)NC | C7H8BrNO2S
reactant | (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 3.06 mmol, 0.81 g | C1(CCCCC1)/C=C(/CO)\B1OC(C(O1)(C)C)(C)C | C15H27BO3
reactant | caesiumfluoride | 6.12 mmol, 0.93 g | [F-].[Cs+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphino)palladium(0) | 0.2 mmol, 230 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)4-(2-Cyclohexyl-1-hydroxymethyl-vinyl)-N-methyl-benzenesulfonamide | 0.51 g | C1(CCCCC1)/C=C(/CO)\C1=CC=C(C=C1)S(=O)(=O)NC | C16H23NO3S
